* C:\GitHub\LTspice-simulations\2025-09-22 3-Phase Rectifier 4.asc
* Generated by LTspice 24.1.4 for Windows.
V5 PhaseA Neutral SINE(0 170 60 0 0 0)
V6 PhaseB Neutral SINE(0 170 60 0 0 120)
V7 PhaseC Neutral SINE(0 170 60 0 0 240)
D7 PhaseA DC+_out 1N4007
D8 0 PhaseC 1N4007
D9 PhaseB DC+_out 1N4007
D10 0 PhaseA 1N4007
D15 PhaseC DC+_out 1N4007
D16 0 PhaseB 1N4007
C1 DC+_out 0 1000µF
R1 DC+_out 0 100
.model D D
.lib C:\Users\ean.schiller.NORTH-WIND\AppData\Local\LTspice\lib\cmp\standard.dio
.tran .016666666
* Three phase AC/DC diode bridge rectifier
* Transient simulation
* 115VAC is RMS\nPeak-to-peak is closer to 162.6VAC\nRMS = Peak / sqrt(2)
* Measuring voltage of PhaseA relative to neutral (click PhaseA, drag probe to Neutral) represents what we see in the lab:\nPhase-to-Neutral = 163 Vpeak = 115 Vrms (CTRL+Click corresponding plot label to get RMS value)\nLine-to-Line = 282 Vpeak = 199 Vrms\nThis is what the aircraft provides for Flutter Exciter installations
* In simulation, by connecting the power supply Neutral to ground, we get an output DC voltage closer to 170VDC (when smoothed with a capacitor)\nBut that is effectively just shorting out half of the cycles of our power supply (currents though the supply phases go super high)...\nso that's not actually a workable path.
* anode (+) terminal
* cathode (-) terminal
* Vpeak = Vrms x sqrt(2)\nWhen a voltage values is specified for a supply it is usually Vrms \nAlso, Fluke 87 meters display Vrms by default\nVpeak = 120 Vrms x 1.414 = 170 Vpeak\n \nFor wye (star) connected supply, 120 Vrms is phase-to-neutral\nFor delta connected supply, 120 Vrms is line-to-line\n \nFor 3-phase full-wave rectifier: \nVL_RMS is line-to-line rms voltage\nline-to-line peak voltage: VL_peak = VL_RMS x sqrt(2)\nphase-to-neutral peak voltage: VS = VL_peak / sqrt(3)\naverage DC output voltage: VDC = 3 x sqrt(3) / pi x VS = 1.654 x VS\nalso: VDC = 3 x sqrt(2) / pi x VL_RMS = 1.35 x VL_RMS \n \nFor delta connected supply, 120 Vrms is line-to-line, VL_RMS = 120\nVL_peak = 120 x 1.414 = 170V\nVS = 170V / 1.732 = 98V\nVDC = 1.654 x 98V = 162V\n \n \nFor wye (star) connected supply, 120 Vrms is phase-to-neutral\nphase-to-neutral peak voltage = 120 Vrms x 1.414 = 170V\nVS is phase-to-neutral peak voltage so VS = 170 V\nVDC = 1.654 x 170V = 281V\n \nhttps://www.electronics-tutorials.ws/power/three-phase-rectification.html\nhttps://forum.allaboutcircuits.com/threads/i-was-trying-to-build-an-ltspice-model-for-three-phase-uncontrolled-rectifier.141625/
* The custom FE power supply, 1226-750, outputs about 160V, but is fed with a wye connected supply\nIf it were just a passive rectifier, output would be ~280V\nInstead, it appears that the FE's active supply adjusts the firing angle to control what portion of\n the input waveform gets through and thus sets the resultant DC voltage to something less than 280V
.backanno
.end
