* C:\GitHub\LTspice-simulations\Full Bridge Strain Gauge Sensor\Strain Bridge Model.asc
* Generated by LTspice 24.1.4 for Windows.
Rexc1 N001 N002 {Rs}
Rb1 N002 Vin- {Ro+Rf}
Rb2 N002 Vin+ {Ro-Rf}
Rb3 Vin- N003 {Ro-Rf}
Rb4 Vin+ N003 {Ro+Rf}
Rexc2 N003 0 {Rs}
Vexc N001 0 4.096
X§X1 Vin+ Vin- Strain Subtractor

* block symbol definitions
.subckt Subtractor in1 in2 out
B1 out 0 V = V(IN1) - V(IN2)
.ends Subtractor

.param Vforce=1
.param Vforce_max=1
.param Vin_Span=1.5m
.param Ro=350 Rs=1f
.param Rf={Vin_Span*(Vforce/Vforce_max)*(Ro+2*Rs)}
.op
.step param Vforce 0 1 0.1
* *Strain = Vforce with 1lb = 1V\n*Strain is swept from 0lb to 1lb in 0.1lb increments
.backanno
.end
